US08808702B2
Synthesis of (E)-1-(4-methoxyphenyl)-2-(4-bromophenylthio)-3-(4-bromophenyl)prop-2-en-1-one
The title compound is prepared by the methods described in Synthesis Example 1. A solution of 1-(4-methoxyphenyl)-2-(4-bromophenylthio)ethanone (10 mmol) and 4-bromobenzaldehyde (10 mmol) was subjected to the procedure described as Method B in part C of Synthesis Example 1 and the product obtained was purified by column chromatography.

reactant | 1-(4-methoxyphenyl)-2-(4-bromophenylthio)ethanone | 10 mmol | COC1=CC=C(C=C1)C(CSC1=CC=C(C=C1)Br)=O | C15H13BrO2S
reactant | 4-bromobenzaldehyde | 10 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | (E)-1-(4-methoxyphenyl)-2-(4-bromophenylthio)-3-(4-bromophenyl)prop-2-en-1-one | COC1=CC=C(C=C1)C(/C(=C\C1=CC=C(C=C1)Br)/SC1=CC=C(C=C1)Br)=O | C22H16Br2O2S
